US04590205
5-Iodo-2,3-bis(4-methoxyphenyl)thiophene
A solution of 2,3-bis(4-methoxyphenyl)thiophene (5.92 g, 20 mmole) in 70 ml methylene chloride was cooled in an ice bath and treated in portions with iodine (5.6 g, 20 mmole) and red mercuric oxide (4.32 g, 20 mmole). The reaction mixture was stirred at room temperature for 4 hours and then treated with additional portions of iodine (2.8 g, 10 mmole) and mercuric oxide (2.16 g, 10 mmole). After 2 hours additional, the reaction mixture was filtered through a celite pad.

reactant | 2,3-bis(4-methoxyphenyl)thiophene | 20 mmole, 5.92 g | COC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)OC | C18H16O2S
reactant | iodine | 20 mmole, 5.6 g | II | I2
reactant | iodine | 10 mmole, 2.8 g | II | I2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 5-Iodo-2,3-bis(4-methoxyphenyl)thiophene | IC1=CC(=C(S1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H15IO2S
